US07238716B2
To a mixture of 4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]benzyl alcohol (4.00 g), 2-chloro-3-cyanopyridine (2.41 g) and N,N-dimethylformamide (80 mL) was gradually added sodium hydride (60%, oil, 700 mg) under ice-cooling. After stirring the reaction mixture at room temperature for 2 hrs, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. Recrystallization from ethyl acetate-isopropyl ether gave colorless prism crystals (4.02 g, 78%) of 2-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]benzyloxy]nicotinonitrile. melting point: 145-146° C.

reactant | 4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]benzyl alcohol | 4.00 g | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(CO)C=C1 | C22H19NO3
reactant | 2-chloro-3-cyanopyridine | 2.41 g | ClC1=NC=CC=C1C#N | C6H3ClN2
reactant | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 700 mg | [H-].[Na+]
solvent | water | O | H2O
product | 2-[4-[5-methyl-2-(2-naphthyl)-4-oxazolylmethoxy]benzyloxy]nicotinonitrile | 4.02 g, 78% | CC1=C(N=C(O1)C1=CC2=CC=CC=C2C=C1)COC1=CC=C(COC2=C(C#N)C=CC=N2)C=C1 | C28H21N3O3
